US05690949
N-methyl-N-glycidyl-perfluorooctanesulfonamide ("epoxide A") was prepared by placing 450 grams N-methyl-perfluorooctanesulfonamide ("amide A") in a two-liter three-necked round-bottom flask and heating to 80° C., 101 grams epichlorohydrin was then added followed by 91 grams methanol. The temperature was reduced to 65° C. before 30 grams 25 wt % sodium methoxide in methanol solution was slowly added keeping the temperature below 70° C. 60 grams 50 wt % aqueous sodium hydroxide solution was slowly added keeping the temperature below 70° C. After addition the reaction was stirred at 65° C. overnight. Water-aspirator vacuum was applied to the flask and excess methanol and epichlorohydrin were removed. 450 grams water was then added to the flask with stirring at 65° to wash the product. The water was decanted after allowing the product to settle. This washing step was repeated a second time. Vacuum was applied to 20 mm Hg and the temperature of the flask was raised to 90° C. to remove volatile materials.

reactant | N-methyl-perfluorooctanesulfonamide | 450 grams | CNS(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C9H4F17NO2S
reactant | epichlorohydrin | 101 grams | C(Cl)C1CO1 | C3H5ClO
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 91 grams | CO | CH4O
solvent | Water | O | H2O
product | N-methyl-N-glycidyl-perfluorooctanesulfonamide | CN(S(=O)(=O)C(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)CC1CO1 | C12H8F17NO3S
